************************************************************************
* auCdl Netlist:
* 
* Library Name:  Laygen_AMP
* Top Cell Name: BGR
* View Name:     schematic
* Netlisted on:  Oct 23 20:02:56 2025
************************************************************************

.INCLUDE /home/PDK/ss28nm/SEC_CDS/ln28lppdk/S00-V1.1.0.1_SEC2.0.6.2/oa/cmos28lp/.resources/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM


************************************************************************
* Library Name: Laygen_AMP
* Cell Name:    opamp
* View Name:    schematic
************************************************************************

.SUBCKT opamp VDD VINn VINp VOUT VSS
*.PININFO VDD:B VINn:B VINp:B VOUT:B VSS:B
MN1 net6 net1 VSS VSS nfet w=6.0000u l=0.1900u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN5 VOUT net1 VSS VSS nfet w=6.0000u l=0.1900u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN3 net2 VINp net6 VSS nfet w=2.0000u l=0.1900u nf=1.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN2 net5 VINn net6 VSS nfet w=2.0000u l=0.1900u nf=1.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN_Dummy VSS VSS VSS VSS nfet w=50.0000u l=0.1900u nf=25.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN4 net1 net1 VSS VSS nfet w=12.0000u l=0.1900u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 net5 net5 VDD VDD pfet w=8.0000u l=0.1900u nf=4.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP4 net1 net1 net3 VDD pfet w=6.0000u l=0.1900u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP2 net2 net5 VDD VDD pfet w=8.0000u l=0.1900u nf=4.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP_Dummy VDD VDD VDD VDD pfet w=26.0000u l=0.1900u nf=13.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP3 net3 net3 VDD VDD pfet w=12.0000u l=0.1900u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP5 VOUT net2 VDD VDD pfet w=16.0000u l=0.1900u nf=8.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
CC2 net2 net4 $[ncap] $SUB=VSS l=2.0000u w=2.7000u nf=4.0000 nrep=2.0000
RR1 VOUT net4 $SUB=VSS $[opppcres] r=3.039k w=1.5000u l=2.5000u pbar=1 s=2.0000 bp=3 ncr=1
.ENDS
************************************************************************
* Library Name: Laygen_BGR
* Cell Name:    BGR
* View Name:    schematic
************************************************************************

.SUBCKT BGR VDD VSS Vref
*.PININFO VDD:B VSS:B Vref:B
XI40 VDD net1 net5 OUT VSS / opamp
QQP0 VSS VSS net1 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP2 VSS VSS net2 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<0> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<1> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<2> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<3> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<4> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<5> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<6> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<7> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP1<8> VSS VSS net6 vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
QQP3 VSS VSS VSS vpnp nf=1 nrep=1 w=2.0000u l=2.0000u
MP8 Vref OUT VDD VDD pfet w=3.9000u l=0.3300u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP7 net5 OUT VDD VDD pfet w=1.3000u l=0.3300u nf=1.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP6 net1 OUT VDD VDD pfet w=3.9000u l=0.3300u nf=3.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP9 net4 net4 net3 VDD pfet w=4.0000u l=0.4200u nf=4.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP10 net3 net3 VDD VDD pfet w=10.0000u l=0.4200u nf=10.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
RR3 net5 net6 $SUB=VSS $[opppcres] r=10.052k w=1.5000u l=7.5000u pbar=1 s=8.0000 bp=3 ncr=1
RR2 Vref net2 $SUB=VSS $[opppcres] r=88.819k w=1.0000u l=4.5000u pbar=1 s=5.0000 bp=3 ncr=1
MN6 OUT net4 VSS VSS nfet w=2.0000u l=0.4200u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN7 net4 Vref VSS VSS nfet w=8.0000u l=0.4200u nf=8.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS
